US07553840B2
The mixture of 1-[2-(5-dimethylaminomethyl-furan-2-yl)-phenyl]-2,2,2-trifluoro-ethanol (225 mg, 0.75 mmol), 2-amino-4,6-dichloro-pyrimidine (111 mg, 0.67 mmol), cesium carbonate (978 mg, 3.01 mmol) and 1,4-dioxane (3 ml) was heated at 110° C. overnight. The reaction mixture was cooled to room temperature; 10 ml of ethyl acetate was added. The mixture was then filtered through Celite, the filtrate was concentrated to give 110 mg of 4-chloro-6-{1-[2-(5-dimethylaminomethyl-furan-2-yl)-phenyl]2,2,2-trifluoro-ethoxy}-pyrimidin-2-ylamine, yield 87%.

reactant | 1-[2-(5-dimethylaminomethyl-furan-2-yl)-phenyl]-2,2,2-trifluoro-ethanol | 0.75 mmol, 225 mg | CN(C)CC1=CC=C(O1)C1=C(C=CC=C1)C(C(F)(F)F)O | C15H16F3NO2
reactant | 2-amino-4,6-dichloro-pyrimidine | 0.67 mmol, 111 mg | NC1=NC(=CC(=N1)Cl)Cl | C4H3Cl2N3
reactant | cesium carbonate | 3.01 mmol, 978 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 1,4-dioxane | 3 ml | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
product | 4-chloro-6-{1-[2-(5-dimethylaminomethyl-furan-2-yl)-phenyl]2,2,2-trifluoro-ethoxy}-pyrimidin-2-ylamine | 110 mg, yield 87% | ClC1=NC(=NC(=C1)OC(C(F)(F)F)C1=C(C=CC=C1)C=1OC(=CC1)CN(C)C)N | C19H18ClF3N4O2
